US07354933B2
3-nitro-4-trifluoromethoxyaniline
20 g (112.9 mmol) of 4-trifluoromethoxyaniline were dissolved in 50 ml of concentrated sulfuric acid at a temperature of 0 to 5° C., treated with 30 ml of a 4/1 mixture of sulfuric acid and nitric acid. The mixture was stirred for 5 hours at 0° C. and then poured into an ice-cold water mixture and made alkaline with 200 ml of concentrated aqueous ammonia solution. Extraction with EE, drying with sodium sulfate, evaporation to dryness and recrystallization from ethyl acetate/heptane gave 15.5 g (63%) of the desired product.

reactant | 4-trifluoromethoxyaniline | 112.9 mmol, 20 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | ammonia | 200 ml | N | H3N
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 3-nitro-4-trifluoromethoxyaniline | 15.5 g, 63% | [N+](=O)([O-])C=1C=C(N)C=CC1OC(F)(F)F | C7H5F3N2O3
